US07056932B2
To a solution of (RS)-N-(4-cyano-2-nitro-benzyl)-2-ethoxy-2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide (0.310 g) in ethyl acetate (7.3 ml) was added 10% Pd/C (60 mg) and the mixture vigorously stirred at r.t. under a hydrogen atmosphere for 24 h. The catalyst was filtered off over a celite pad and the cake was carefully washed with ethyl acetate. The filtrate was evaporated to yield (RS)-N-(2-amino-4-cyano-benzyl)-2-ethoxy-2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide (0.293 g) as yellow viscous oil, MS 397.2 ([M+H]+).

reactant | (RS)-N-(4-cyano-2-nitro-benzyl)-2-ethoxy-2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide | 0.310 g | C(#N)C1=CC(=C(CNC(C(N2C(C3=CC=CC(=C3C2=O)F)=O)OCC)=O)C=C1)[N+](=O)[O-] | C20H15FN4O6
solvent | ethyl acetate | 7.3 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 60 mg | [Pd] | Pd
product | (RS)-N-(2-amino-4-cyano-benzyl)-2-ethoxy-2-(4-fluoro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetamide | 0.293 g | NC1=C(CNC(C(N2C(C3=CC=CC(=C3C2=O)F)=O)OCC)=O)C=CC(=C1)C#N | C20H17FN4O4
